US08629270B2
2-Chloro-5-fluoro-4-(1-fluoro-1-methyl-ethyl)pyrimidine
Diethylaminosulfur trifluoride (6.53 g, 40.5 mmol) is added drop wise to a −78° C. solution of 2-(2-chloro-5-fluoro-pyrimidin-4-yl)propan-2-ol (4.825 g, 25.31 mmol) in dichloromethane (70 mL) under nitrogen. The reaction is stirred at −78° C. for 30 minutes under nitrogen, is then quenched with aqueous saturated sodium bicarbonate and is warmed to room temperature. The reaction mixture is extracted three times with ethyl acetate. The combined organic layers are dried over sodium sulfate and concentrated under vacuum. The resulting crude product is purified over silica gel with a 40 minute, 5% to 100% ethyl acetate in hexanes gradient to give the title compound (4.23 g, 87%). ES/MS (m/e): (35Cl/37Cl) 193/195 (M+H).

reactant | Diethylaminosulfur trifluoride | 40.5 mmol, 6.53 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 2-(2-chloro-5-fluoro-pyrimidin-4-yl)propan-2-ol | 25.31 mmol, 4.825 g | ClC1=NC=C(C(=N1)C(C)(C)O)F | C7H8ClFN2O
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | 2-Chloro-5-fluoro-4-(1-fluoro-1-methyl-ethyl)pyrimidine | 4.23 g, 87% | ClC1=NC=C(C(=N1)C(C)(C)F)F | C7H7ClF2N2
